US07799822B2
A suspension of (S)-4-(3-(5-chloroindolin-1-yl)-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide (11 mg, 0.023 mmol) and activated MnO2 (20 mg, 0.23 mmol) in CH2Cl2 (1.0 mL) was heated to 50° C. for 20 h. After cooling to RT, the reaction mixture was filtered through a syringe filter, concentrated and dissolved in DMSO/MeOH (1:1, 0.8 mL). Purification via reverse phase HPLC using 10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA) gave (S)-4-(3-(5-chloro-1H-indol-1-yl)-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide. 1H NMR (400 MHz, MeOD-d4) δ 7.83 (d, J=3.8 Hz, 2H), 7.81 (d, J=2.5 Hz, 2H), 7.46 (d, J=2.0 Hz, 1H), 7.29-7.26 (m, 2H), 7.04-6.99 (m, 2H), 6.62 (d, J=4.7 Hz, 1H), 6.43 (d, J=3.2 Hz, 1H), 5.51 (dd, J=8.9, 11.0 Hz, 1H), 3.99 (dd, J=6.1, 9.7 Hz, 2H), 2.75-2.67 (m, 1H), 2.48-2.38 (m, 1H). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=473.2; tR=3.21 min.

reactant | (S)-4-(3-(5-chloroindolin-1-yl)-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide | 0.023 mmol, 11 mg | ClC=1C=C2CCN(C2=CC1)[C@@H]1C(N(CC1)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1)=O | C21H19ClN4O3S2
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 0.23 mmol, 20 mg | O=[Mn]=O
product | (S)-4-(3-(5-chloro-1H-indol-1-yl)-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide | ClC=1C=C2C=CN(C2=CC1)[C@@H]1C(N(CC1)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1)=O | C21H17ClN4O3S2
